US04663453
N-[2-(5-bromoindolin-1-yl)-5-bromophenyl]-4-methyl-1-piperazinecarboxamide
N-Bromosuccinimide (2.6 g, 14.5 mmoles) was added to a solution of N-[2-(indolin-1-yl)-5-bromophenyl]-4-methyl-1-piperazinecarboxamide (5.0 g, 12.0 mmoles) in dimethylformamide (50 ml). The solution was stirred at room temperature for 15 minutes and at 60° C. for 15 minutes. The solution was cooled and poured into dichloromethane (500 ml). The layers were separated and the organic phase was washed with water (3×500 ml), brine (500 ml), and dried over anhydrous sodium sulfate. The mixture was filtered and the filtrate was concentrated. The residue was purified by chromatography over silica gel (60 g, eluted with 4% methanol:96% dichloromethane, 1 l). The appropriate fractions were pooled and concentrated to give 4.8 g (84%) of product. Recrystallization from chloroform and hexane gave the analytical sample, mp 118°-119.5° C.

reactant | N-Bromosuccinimide | 14.5 mmoles, 2.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-[2-(indolin-1-yl)-5-bromophenyl]-4-methyl-1-piperazinecarboxamide | 12.0 mmoles, 5.0 g | N1(CCC2=CC=CC=C12)C1=C(C=C(C=C1)Br)NC(=O)N1CCN(CC1)C | C20H23BrN4O
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N-[2-(5-bromoindolin-1-yl)-5-bromophenyl]-4-methyl-1-piperazinecarboxamide | 4.8 g, 84% | BrC=1C=C2CCN(C2=CC1)C1=C(C=C(C=C1)Br)NC(=O)N1CCN(CC1)C | C20H22Br2N4O
